US06358976B1
As an alternative to the quinolone synthesis outlined above, the quinolone nucleus may be formed using the route illustrated in Scheme II. Similar methodology for the preparation of quinolones was first described in German patent application DE3142854. Starting from a 4-bromo-3-fluoro-benzoyl chloride, condensation with malonic acid monoethyl ester monopotassium salt gives a benzoyl acetate that is subsequently reacted with triethyl orthoformate. The resulting ethoxymethylene derivative is reacted with a primary amine and cyclized to the quinolone.

reactant | quinolone | N1C(C=CC2=CC=CC=C12)=O | C9H7NO
reactant | 4-bromo-3-fluoro-benzoyl chloride | BrC1=C(C=C(C(=O)Cl)C=C1)F | C7H3BrClFO
reactant | malonic acid monoethyl ester monopotassium salt | [K+].C(C)OC(CC(=O)[O-])=O
product | benzoyl acetate | C(C)(=O)OC(C1=CC=CC=C1)=O | C9H8O3
